US09193716B2
Step A: 1-(4-Bromophenyl)but-2-yn-1-one
To an ice cold solution of 4-bromobenzaldehyde (1.3 g, 7 mmol) 0.5 M solution of propynyl magnesium bromide in THF (15 ml, 7.5 mmol) was added under N2. The mixture was stirred for 10 min, quenched with saturated NH4Cl solution and diluted to 50 ml with EtOAc. The organic layer was washed with H2O, dried over MgSO4 and filtered. The filtrate was evaporated to dryness and the residue was dissolved in 1,4-dioxane (25 ml). To it MnO2 (2 g) was added and the resulting suspension was stirred for 4 h at reflux. The mixture was filtered through Celite pad and the filtrate was evaporated to dryness and dried in vacuo to give the title compound (1.29 g, 83%) as a pale solid. 1H-NMR (CDCl3) 7.97 (d, 2H, J=9 Hz); 7.61 (d, 2H, J=9 Hz); 2.14 (s, 3H).

reactant | 4-bromobenzaldehyde | 7 mmol, 0.5 M, 1.3 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | propynyl magnesium bromide | C(#CC)[Mg]Br
reactant | THF | 7.5 mmol, 15 ml | C1CCOC1 | C4H8O
product | 1-(4-Bromophenyl)but-2-yn-1-one | 1.29 g, 83% | BrC1=CC=C(C=C1)C(C#CC)=O | C10H7BrO
